
.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 0.1m

* bias circuit
R1 vcc base 80k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
Re emit 0 100

* bypass capacitor
Cb emit 0 1m


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 100

* output coupling capacitor
Co emit2 out 1m

* load
RL out 0 8

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

* operating point analysis
op

let VBE1 = base - emit
let VCE1 = coll - emit
let VB1 = base
let VC1 = coll
let VE1 = emit
let VEB2 = emit2 - coll
let VEC2 = emit2
let VB2 = coll
let VC2 = 0
let VE2 = emit2


echo "op-sim_TAB"
print @q1[ib] @q1[ie] @q1[ic]
print VB1 VC1 VE1
print VBE1 VCE1
print @q2[ib] @q2[ie] @q2[ic]
print VB2 VC2 VE2
print VEB2 VEC2
echo "op-sim_END"


* time analysis
tran 1e-5 1e-2
*plot v(coll)
hardcopy vo1.ps v(coll)


* frequency analysis
ac dec 10 10 100MEG
*plot vdb(coll)
*plot vp(coll)
hardcopy vo1f.ps vdb(coll) vp(coll)*180/pi



*plot vdb(out)
*plot vp(out)
hardcopy vo2f.ps vdb(out) vp(out)*180/pi

hardcopy votf.ps vdb(out) vdb(coll)


*input impedance in kohm
*print all

*plot abs(v(in2)[40]/vin#branch[40]/(-1000))
echo "***********************"
echo "* input impedance ohm *"
echo "***********************"
print v(in2)[40]/vin#branch[40]/(-1)
*print v(in2)/vin#branch/(-1000)


echo " "
echo "****************"
echo "* merit values *"
echo "****************"

*print v(out)
meas ac voltGainDB MAX vdb(out)
let vabs_out = abs(v(out))
meas ac voltGain MAX vabs_out
let voltG3 = voltGainDB-3
print voltG3

meas ac lowerCOf WHEN vdb(out)=voltG3
meas ac upperCOf WHEN vdb(out)=voltG3 CROSS=LAST

let bandwidth = upperCOf-lowerCOf
print bandwidth

let cost = 0.1*2 + (0.1+80+20+1+0.1+0.1+8m) + (0.1k+1k+1k)
print cost

let merit = voltGain*bandwidth/cost/lowerCOf
print merit

*need a different setup to measure output impedance

quit
.endc 

